US04234586
To a mixture of 2.5 g. (0.02 mole) of p-chloroaniline and 10 ml. of a 1:1 diluted aqueous hydrochloric acid a solution of 1.4 g. (0.01 mole) of sodium nitrite and 10 ml. of water is slowly added dropwise at 0°-5° C. under stirring. To the reaction mixture 12.0 g. of solid sodium acetate are added in portions, whereupon a solution of 4.7 g. (0.02 mole) of ethyl-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido(1,2-a)pyrimidine-3-carboxylate and 10 ml. of water is slowly added dropwise under vigorous stirring. The reaction mixture is stirred at 0°-5° C. for 2-3 hours, whereupon it is allowed to stand in a refrigerator overnight. The precipitated crystals are filtered off and washed with a small amount of water. After recrystallization from ethanol 4.2 g. (56.0%) of ethyl-9-(p-chloro-phenylhydrazono)-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido-(1,2-a)pyrimidine-3-carboxylate are obtained. Mp.: 177°-178° C.

reactant | p-chloroaniline | 0.02 mole | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | 0.01 mole | N(=O)[O-].[Na+]
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | ethyl-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido(1,2-a)pyrimidine-3-carboxylate | 0.02 mole | C(C)OC(=O)C1=CN=C2N(C1=O)C(CCC2)C | C12H16N2O3
solvent | water | O | H2O
product | ethyl-9-(p-chloro-phenylhydrazono)-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido-(1,2-a)pyrimidine-3-carboxylate | 56.0% | C(C)OC(=O)C1=CN=C2N(C1=O)C(CCC2=NNC2=CC=C(C=C2)Cl)C | C18H19ClN4O3
